US03976660
To a stirred solution of 24.9 g. (0.01 mol.) of N-carbobenzoxy-DL-proline and 11.22 g. (0.11 mol.) of n-hexanol in 200 ml. of dry dimethylformamide and 7.9 g. pyridine at room temperature is added 20.6 g. (0.01 mol.) of N,N'-dicyclohexylcarbodiimide. After stirring this mixture at room temperature for 16 hours, the precipitated N,N'-dicyclohexylurea is filtered off, the filtrate is diluted with a large volume of saturated aqueous sodium chloride, and this is thoroughly extracted with chloroform. The combined extracts are dried and concentrated in vacuo to give an oil comprising 1-(benzyloxy)carbonyl)]-2-[(hexyloxy)carbonyl]pyrrolidine.

reactant | N-carbobenzoxy-DL-proline | 0.01 mol | C(=O)(OCC1=CC=CC=C1)N1C(C(=O)O)CCC1 | C13H15NO4
reactant | n-hexanol | 0.11 mol | C(CCCCC)O | C6H14O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N,N'-dicyclohexylcarbodiimide | 0.01 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[(hexyloxy)carbonyl]pyrrolidine | C(CCCCC)OC(=O)C1NCCC1 | C11H21NO2
